US06265575B1
Part C. 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl 6-[2-(1-Pyrrolidinyl)ethoxy)pyrid-3-yl Ketone
By essentially following the procedures outlined in Example 1, Part D, the title compound was prepared from 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 6-[2-(1-pyrrolidinyl)ethoxy]pyrid-3-yl ketone (Part B) in 89% yield as a yellow solid following radial chromatography (SiO2, 5% MeOH in CH2Cl2).

reactant | 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 6-[2-(1-pyrrolidinyl)ethoxy]pyrid-3-yl ketone | N1(CCCC1)CCOC1=CC=C(C=N1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C27H26N2O3S
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl 6-[2-(1-Pyrrolidinyl)ethoxy)pyrid-3-yl Ketone | 89% yield | N1(CCCC1)CCOC1=CC=C(C=N1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O)C=CC=C2 | C26H24N2O3S
